* /home/nalinnet36/Desktop/nalin_esim/try1/try1.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Tue 08 Mar 2022 04:48:06 PM UTC

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
v1  Vac GND sine		
D2  GND GND eSim_Diode		
D4  GND V_rec eSim_Diode		
C3  V_rec GND 1000uF		
D1  GND Vac eSim_Diode		
D3  Vac V_rec eSim_Diode		
C4  F_out GND 0.01uF		
X2  V_rec GND F_out LM_7812		
X1  GND Net-_C1-Pad1_ out_as F_out Net-_C2-Pad1_ Net-_C1-Pad1_ Net-_R1-Pad2_ F_out LM555N		
R1  F_out Net-_R1-Pad2_ 1k		
R2  Net-_R1-Pad2_ Net-_C1-Pad1_ 100k		
C1  Net-_C1-Pad1_ GND 1.37u		
C2  Net-_C2-Pad1_ GND 0.01uF		
U13  out_as plot_v1		
X3  ? vh vcin dc2 ? cout dc1 ? lm_741		
X4  ? vcin vl dc2 ? cout1 dc1 ? lm_741		
v5  dc1 GND 12V		
R4  vh vl 10k		
R5  vl GND 10k		
R3  dc1 vh 10k		
v6  vcin GND sine		
U16  cout Net-_U14-Pad1_ adc_bridge_1		
U19  Net-_U15-Pad2_ bout dac_bridge_1		
U20  bout plot_v1		
U17  cout plot_v1		
v4  dc2 GND -12V		
U18  cout1 plot_v1		
U23  cout1 Net-_U21-Pad1_ adc_bridge_1		
U27  Net-_U22-Pad2_ bout1 dac_bridge_1		
U28  bout1 plot_v1		
U29  o_xnor plot_v1		
U24  bout bout1 Net-_U24-Pad3_ Net-_U24-Pad4_ adc_bridge_2		
U26  Net-_U25-Pad3_ o_xnor dac_bridge_1		
U25  Net-_U24-Pad3_ Net-_U24-Pad4_ Net-_U25-Pad3_ d_xnor		
U12  c0 plot_v1		
U10  c1 plot_v1		
U9  c2 plot_v1		
U11  c3 plot_v1		
U8  Net-_U1-Pad6_ Net-_U1-Pad5_ Net-_U1-Pad4_ Net-_U1-Pad3_ c3 c2 c1 c0 dac_bridge_4		
U7  out plot_v1		
v2  rst GND pulse		
U6  Net-_U3-Pad21_ out dac_bridge_1		
U2  o_xnor rst Net-_U1-Pad1_ Net-_U1-Pad2_ adc_bridge_2		
U5  GND GND GND out_as GND GND GND in1 Net-_U3-Pad9_ Net-_U3-Pad10_ Net-_U3-Pad11_ Net-_U3-Pad12_ Net-_U3-Pad13_ Net-_U3-Pad14_ Net-_U3-Pad15_ Net-_U3-Pad16_ adc_bridge_8		
U4  GND GND GND GND GND GND GND in1 Net-_U3-Pad1_ Net-_U3-Pad2_ Net-_U3-Pad3_ Net-_U3-Pad4_ Net-_U3-Pad5_ Net-_U3-Pad6_ Net-_U3-Pad7_ Net-_U3-Pad8_ adc_bridge_8		
v3  in1 GND DC		
U14  Net-_U14-Pad1_ Net-_U14-Pad2_ nali_inverter		
U15  Net-_U14-Pad2_ Net-_U15-Pad2_ nali_inverter		
U21  Net-_U21-Pad1_ Net-_U21-Pad2_ nali_inverter		
U22  Net-_U21-Pad2_ Net-_U22-Pad2_ nali_inverter		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ nali_counter		
U3  Net-_U3-Pad1_ Net-_U3-Pad2_ Net-_U3-Pad3_ Net-_U3-Pad4_ Net-_U3-Pad5_ Net-_U3-Pad6_ Net-_U3-Pad7_ Net-_U3-Pad8_ Net-_U3-Pad9_ Net-_U3-Pad10_ Net-_U3-Pad11_ Net-_U3-Pad12_ Net-_U3-Pad13_ Net-_U3-Pad14_ Net-_U3-Pad15_ Net-_U3-Pad16_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U3-Pad21_ nali_16_mux		

.end
